US04229455
Step D: Preparation of 6-(4-methylpiperazinyl)-11-methylenebenzo[5,6]cyclohepta[1,2-c]pyridine
A mixture of 5-bromo-11-methylenebenzo[5,6]cyclohepta[1,2-c]pyridine (11.0 g.), 1-methylpiperazine (7.8 ml.), potassium tert.-butoxide (8.4 g.) and tert.-butanol (150 ml.) is heated under reflux for 4 hours. The tert.-butanol is removed in vacuo and the residue is taken up in methylene chloride (600 ml.). The resulting mixture is washed with 10% NaCl solution, saturated NaCl solution, and dried (anhydrous Na2SO4). Filtration and removal of the solvent gives 10.76 g. of dark amber oil.

reactant | 5-bromo-11-methylenebenzo[5,6]cyclohepta[1,2-c]pyridine | 11.0 g | BrC1=CC2=C(C(C=3C=NC=CC31)=C)C=CC=C2 | C15H10BrN
reactant | 1-methylpiperazine | 7.8 ml | CN1CCNCC1 | C5H12N2
reactant | potassium tert.-butoxide | 8.4 g | CC(C)([O-])C.[K+]
solvent | tert.-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 6-(4-methylpiperazinyl)-11-methylenebenzo[5,6]cyclohepta[1,2-c]pyridine | CN1CCN(CC1)C1=CC2=C(C=NC=C2)C(C2=C1C=CC=C2)=C | C20H21N3
